US07534788B2
Step 1: (2-Formyl-4-methoxy-phenoxy)-acetic acid ethyl ester
To a solution of 2-hydroxy-5-methoxybenzaldehyde (21.75 g, 143 mmol) in 240 mL acetonitrile were successively added Cs2CO3 (55.9 g, 1.2 eq.) and ethyl bromoacetate (16.6 mL, 1.05 eq.) and the mixture vigorously stirred at ambient temperature for 2 h. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents left 34.36 g of the title product, sufficiently pure to be used for the next step.

reactant | 2-hydroxy-5-methoxybenzaldehyde | 143 mmol, 21.75 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | Cs2CO3 | 55.9 g, 1.2 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl bromoacetate | 16.6 mL, 1.05 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 240 mL | C(C)#N | C2H3N
product | (2-Formyl-4-methoxy-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)OC)C=O)=O | C12H14O5
